US06756378B2
To a stirred solution of tert-butyl 4-amino-3-methylphenylacetate (1.20 g, 5.42 mmol) and Et3N (830 ml, 5.95 mmol) in THF (10 ml) was added phenyl isocyanate (650 ml, 5.98 mmol) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated to a small volume and diluted with n-hexane. Resulting precipitate was collected under a reduced pressure and the filtrate was washed with n-hexane to give tert-butyl 3-methyl-4-(N′-phenylureido)phenylacetate (1.12 g, 61%) as a white crystalline powder. mp 143-145° C; 1H-NMR (CDCl3) δ1.47 (s, 9 H), 2.09 (s, 3 H), 3.47 (s, 2 H), 6.44 (s, 1H), 7.01-7.07 (m, 4 H), 7.16-7.27 (m, 2 H), 7.30-7.33 (m, 2 H), 7.45-7.47 (m, 1 H).

reactant | tert-butyl 4-amino-3-methylphenylacetate | 5.42 mmol, 1.20 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)C | C13H19NO2
reactant | Et3N | 5.95 mmol, 830 ml | CCN(CC)CC | C6H15N
reactant | phenyl isocyanate | 5.98 mmol, 650 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-methyl-4-(N′-phenylureido)phenylacetate | 1.12 g, 61% | CC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O3
